US08247418B2
STEP 2. 6-FLUORO-BENZOIMIDAZOLE-1-CARBOXYLIC ACID TERT-BUTYL ESTER
To the solution of 6-fluoro-1H-benzoimidazole (21.5 g, 159 mmol) and triethylamine (34.2 mL, 237 mmol) in DCM (200 mL) was added di-tert-butyl dicarbonate (41.3 mL, 190 mmol) at 5° C. The reaction mixture was stirred at RT overnight. The reaction was then diluted with DCM (100 mL) and washed with water (3×50 ml). The organic layer was dried (Na2SO4) and concentrated. The crude product was purified by silica gel (100-200 mesh) column using 5-10% ethyl acetate-hexane as eluent to obtain the title compound. [M+H]=237.

reactant | 6-fluoro-1H-benzoimidazole | 159 mmol, 21.5 g | FC=1C=CC2=C(NC=N2)C1 | C7H5FN2
reactant | triethylamine | 237 mmol, 34.2 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 190 mmol, 41.3 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-FLUORO-BENZOIMIDAZOLE-1-CARBOXYLIC ACID TERT-BUTYL ESTER | C(C)(C)(C)OC(=O)N1C=NC2=C1C=C(C=C2)F | C12H13FN2O2
